US06465491B2
4-Amino-1-{2-[4-(6-amino-pyridin-2-yl)-phenyl]-ethyl}-piperidine-4-carboxylic acid pyrrolidine-amide
Prepared as in Example 1, using 4-amino-piperidine-4-carboxylic acid pyrrolidine-amide, in 39% yield, mp 220° C. (dec.) as the hydrochloride salt.

reactant | 4-amino-piperidine-4-carboxylic acid pyrrolidine-amide | N1(CCCC1)C(=O)N.NC1(CCNCC1)C(=O)O
reactant | CDCl3 MeOD | [2H]C(Cl)(Cl)Cl.CO[2H]
product | 4-Amino-1-{2-[4-(6-amino-pyridin-2-yl)-phenyl]-ethyl}-piperidine-4-carboxylic acid pyrrolidine-amide | 39% yield | N1(CCCC1)C(=O)N.NC1(CCN(CC1)CCC1=CC=C(C=C1)C1=NC(=CC=C1)N)C(=O)O | InChI=1S/C19H24N4O2.C5H10N2O/c20-17-3-1-2-16(22-17)15-6-4-14(5-7-15)8-11-23-12-9-19(21,10-13-23)18(24)25;6-5(8)7-3-1-2-4-7/h1-7H,8-13,21H2,(H2,20,22)(H,24,25);1-4H2,(H2,6,8)
